US06774136B2
The reaction of 18.4 g (0.216 mol) piperidine and 25.9 g (0.090 mol) 2-methoxybenzaldehyde in accordance with general synthesis instructions 2 and subsequent reaction with 5.3 ml (0.11 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 13.4 g (corresponding to 62% of the yield calculated by theory) 1-(2-methoxy-benzylidene)-piperidinium chloride.

reactant | piperidine | 0.216 mol, 18.4 g | N1CCCCC1 | C5H11N
reactant | 2-methoxybenzaldehyde | 0.090 mol, 25.9 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | acetyl chloride | 0.11 mol, 5.3 ml | C(C)(=O)Cl | C2H3ClO
product | 1-(2-methoxy-benzylidene)-piperidinium chloride | [Cl-].COC1=C(C=[N+]2CCCCC2)C=CC=C1 | InChI=1S/C13H18NO.ClH/c1-15-13-8-4-3-7-12(13)11-14-9-5-2-6-10-14;/h3-4,7-8,11H,2,5-6,9-10H2,1H3;1H/q+1;/p-1
